US06479490B2
A flask charged with 3-(2-morpholin-4-ylethyloxy)iodobenzene (0.33 g, 1 mmol), bis(pinacolato)diboron (0.279 g, 1.1 mmol), potassium acetate (0.294 g, 3 mmol) and PdCl2(dppf) (48 mg, 0.06 mmol) was flushed with nitrogen. N,N-Dimethylformamide (6 mL) was added and the reaction mixture was stirred at 80° C. for 3h and then cooled to room temperature. 3-Bromo-4-(1-methylindol-3-yl)-1-methylpyrrole-2,5-dione (0.255 g, 0.8 mmol) ((synthesized according to the procedures described in Brenner, M. et al., Tet. Lett. 44, 2887, (1988)) was added to the reaction mixture, followed by the addition of PdCl2(dppf) (48 mg, 0.06 mmol)) and 2M aq. Na2CO3 (2.5 mL). The resulting mixture was stirred at 80° C. for 2.5 h, then cooled to room temperature, and quenched with H2O. The product was extracted with EtOAc. The EtOAc layer was washed with H2O, NaCl (sat.), dried over Na2SO4, and concentrated. Purification of the crude product on a silica gel column with 2/3/5 of acetone/CH2Cl2/hexane gave 3-(1-methylindol-3-yl)-4-[3-(2-morpholin-4-ylethyloxy)-phenyl]-1-methylpyrrole-2,5-dione as an orange-red oil. (0.25 g, 70% yield).

reactant | 3-(2-morpholin-4-ylethyloxy)iodobenzene | 1 mmol, 0.33 g | N1(CCOCC1)CCOC=1C=C(C=CC1)I | C12H16INO2
reactant | bis(pinacolato)diboron | 1.1 mmol, 0.279 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3 mmol, 0.294 g | C(C)(=O)[O-].[K+]
reactant | 3-Bromo-4-(1-methylindol-3-yl)-1-methylpyrrole-2,5-dione | 0.8 mmol, 0.255 g | BrC=1C(N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C)=O | C14H11BrN2O2
reactant | Na2CO3 | 2M, 2.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(dppf) | 0.06 mmol, 48 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.06 mmol, 48 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1-methylindol-3-yl)-4-[3-(2-morpholin-4-ylethyloxy)-phenyl]-1-methylpyrrole-2,5-dione | 70% yield | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CC(=CC=C1)OCCN1CCOCC1)=O)C)=O | C26H27N3O4
